2167-04-15 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2X TTE with no pericardial effusion EF 40%
   - Drain only with 100mL since being emptied in lab
   - Attempted to extubate but patient was hypercarbic on pressure support
   ([**10-5**]) so had to go back on AC.
   - At around 10pm had a few episodes of NSVT. Then at around 2am had
   Sustained VT with hypotension and a code was called. 3X shock, chest
   compressions, epi, lido, vasopressin, amio bolus and then drip.
   Patient's pulse came back. follow up tte without effusion but EF
   decreased from 40-30%
   - continued amio drip overnight.
   -ABG in am with acidosis so increased rate to 24. Settings 24X515X50%
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/[**Month/Day (1) 83**]
   Amiodarone - 1 mg/[**Month/Day (1) 83**]
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-15**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 78 (55 - 151) bpm
   BP: 118/52(72) {55/34(40) - 323/124(154)} mmHg
   RR: 24 (10 - 37) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,549 mL
                                                                  1,045 mL
   PO:
             TF:
   IVF:
                                                                  3,549 mL
                                                                  1,045 mL
   Blood products:
   Total out:
                                                                    934 mL
                                                                    585 mL
   Urine:
                                                                    620 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
                                                                    114 mL
                                                                    105 mL
   Balance:
                                                                  2,615 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 735 (465 - 735) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.26/56/227/27/-2
   Ve: 12.9 L/[**Year (4 digits) 83**]
   PaO2 / FiO2: 454
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   252 K/uL
   13.8 g/dL
   226 mg/dL
   1.3 mg/dL
   27 mEq/L
    3.5
   31 mg/dL
   103 mEq/L
   141 mEq/L
   41.3 %
   28.0 K/uL
        [image002.jpg]
                             [**2167-4-14**]  05:53 PM
                             [**2167-4-14**]  06:32 PM
                             [**2167-4-14**]  07:41 PM
                             [**2167-4-14**]  09:26 PM
                             [**2167-4-14**]  10:20 PM
                             [**2167-4-14**]  10:58 PM
                             [**2167-4-15**]  01:37 AM
                             [**2167-4-15**]  01:47 AM
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
   WBC
   12.8
   26.5
   28.0
   Hct
   38.6
   41.1
   41.3
   Plt
   [**Telephone/Fax (3) 6971**]
   Cr
   1.0
   1.3
   TropT
   0.02
   TCO2
   28
   28
   29
   28
   30
   29
   26
   Glucose
   160
   164
   239
   226
   Other labs: PT / PTT / INR:20.8/26.9/2.0, CK / CKMB /
   Troponin-T:/3/0.02, Lactic Acid:1.5 mmol/L, Ca++:8.4 mg/dL, Mg++:2.6
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  Pulsless Sustained V Tach:  Code Blue overnight at 1am,
   cardioverted, pt regained spontaneous circulation.
   - Continue amiodarone
   - Monitor on telemetry closely
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed yesterday.  F/U Echo showed only trivial effusion
   following.
   - continue to hold coumadin for now
   - O2 sat off drain was 96%, likely origin is LA
   - attempt to wean norepinephrine as able
   - Monitor drain output, only 100cc post code
   - TTE today to monitor development, if stable, will pull drain
   .
   #. Hypotension: Likely secondary to tamponade.  However other
   etiologies considered were CHD with poor CO, AF with poor CO,
   hypovolemia from bleeding post-procedure.  BPs have been labile on
   propofol, unable to wean norepinephrine
   - continue norepinephrine, will attempt to wean as able
   - monitor drain output
   - Will check hct and give blood as needed
   - Will have FFP if effusion progresses to reverse coumadin/bleeding
   tendency
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, decrease to 0.5mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to PO
   eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but may be difficult
   extubation currently as must lie flat post-procedure.
   - Will have upright prior to attempting extubation
   - Will wean sedation prior to extubation
   - Will f/u CXR and treat for pulm edema if necessary prior to
   extubation.
   - Will try to extubate today
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition: No IVF currently, NPO, replete lytes PRN,
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT: Holding anticoagulation in setting of bleed - INR 2 with coumadin
   so systemically anticoagulated.
   Stress ulcer:  PPI while intubated
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU
   ------ Protected Section ------
   I reviewed overnight course and events.It appears that AF with RVR
   caused hemodynamic compromise.
   Much better this am.Can be extubated this am.
   Agree with Dr.[**Last Name (STitle) 5077**]
s note.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2167-4-15**] 12:59 ------

2167-04-15 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2X TTE with no pericardial effusion EF 40%
   - Drain only with 100mL since being emptied in lab
   - Attempted to extubate but patient was hypercarbic on pressure support
   ([**10-5**]) so had to go back on AC.
   - At around 10pm had a few episodes of NSVT. Then at around 2am had
   Sustained VT with hypotension and a code was called. 3X shock, chest
   compressions, epi, lido, vasopressin, amio bolus and then drip.
   Patient's pulse came back. follow up tte without effusion but EF
   decreased from 40-30%
   - continued amio drip overnight.
   -ABG in am with acidosis so increased rate to 24. Settings 24X515X50%
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-15**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 78 (55 - 151) bpm
   BP: 118/52(72) {55/34(40) - 323/124(154)} mmHg
   RR: 24 (10 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,549 mL
                                                                  1,045 mL
   PO:
             TF:
   IVF:
                                                                  3,549 mL
                                                                  1,045 mL
   Blood products:
   Total out:
                                                                    934 mL
                                                                    585 mL
   Urine:
                                                                    620 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
                                                                    114 mL
                                                                    105 mL
   Balance:
                                                                  2,615 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 735 (465 - 735) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.26/56/227/27/-2
   Ve: 12.9 L/min
   PaO2 / FiO2: 454
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   252 K/uL
   13.8 g/dL
   226 mg/dL
   1.3 mg/dL
   27 mEq/L
    3.5
   31 mg/dL
   103 mEq/L
   141 mEq/L
   41.3 %
   28.0 K/uL
        [image002.jpg]
                             [**2167-4-14**]  05:53 PM
                             [**2167-4-14**]  06:32 PM
                             [**2167-4-14**]  07:41 PM
                             [**2167-4-14**]  09:26 PM
                             [**2167-4-14**]  10:20 PM
                             [**2167-4-14**]  10:58 PM
                             [**2167-4-15**]  01:37 AM
                             [**2167-4-15**]  01:47 AM
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
   WBC
   12.8
   26.5
   28.0
   Hct
   38.6
   41.1
   41.3
   Plt
   [**Telephone/Fax (3) 6971**]
   Cr
   1.0
   1.3
   TropT
   0.02
   TCO2
   28
   28
   29
   28
   30
   29
   26
   Glucose
   160
   164
   239
   226
   Other labs: PT / PTT / INR:20.8/26.9/2.0, CK / CKMB /
   Troponin-T:/3/0.02, Lactic Acid:1.5 mmol/L, Ca++:8.4 mg/dL, Mg++:2.6
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  Pulsless Sustained V Tach:  Code Blue overnight at 1am,
   cardioverted, pt regained spontaneous circulation.
   - Continue amiodarone
   - Monitor on telemetry closely
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed yesterday.  F/U Echo showed only trivial effusion
   following.
   - Will give FFP if effusion has progressed to reverse coumadin
   - contine to hold coumadin for now
   - O2 sat off drain was 96%, likely origin is LA
   - attempt to wean norepinephrine as able
   .
   #. Hypotension: Likely secondary to tamponade.  However other
   etiologies considered were CHD with poor CO, AF with poor CO,
   hypovolemia from bleeding post-procedure.  BPs have been labile on
   propofol, unable to wean norepinephrine
   - continue norepinephrine, will attempt to wean as able
   - monitor drain output
   - Will check hct and give blood as needed
   - Will have FFP if effusion progresses to reverse coumadin/bleeding
   tendency
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue dofetilide
   - continue digoxin
   - continue amiodarone drip
   - monitor HRs on norepinephrine, attempt to wean as able
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but may be difficult
   extubation currently as must lie flat post-procedure.
   - Will have upright prior to attempting extubation
   - Will wean sedation prior to extubation
   - Will f/u CXR and treat for pulm edema if necessary prior to
   extubation.
   - Will try to extubate today
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition: No IVF currently, NPO, replete lytes PRN,
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT: Holding anticoagulation in setting of bleed - INR 2 with coumadin
   so systemically anticoagulated.
   Stress ulcer:  PPI while intubated
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU

2167-04-15 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2X TTE with no pericardial effusion EF 40%
   - Drain only with 100mL since being emptied in lab
   - Attempted to extubate but patient was hypercarbic on pressure support
   ([**10-5**]) so had to go back on AC.
   - At around 10pm had a few episodes of NSVT. Then at around 2am had
   Sustained VT with hypotension and a code was called. 3X shock, chest
   compressions, epi, lido, vasopressin, amio bolus and then drip.
   Patient's pulse came back. follow up tte without effusion but EF
   decreased from 40-30%
   - continued amio drip overnight.
   -ABG in am with acidosis so increased rate to 24. Settings 24X515X50%
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-15**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 78 (55 - 151) bpm
   BP: 118/52(72) {55/34(40) - 323/124(154)} mmHg
   RR: 24 (10 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,549 mL
                                                                  1,045 mL
   PO:
             TF:
   IVF:
                                                                  3,549 mL
                                                                  1,045 mL
   Blood products:
   Total out:
                                                                    934 mL
                                                                    585 mL
   Urine:
                                                                    620 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
                                                                    114 mL
                                                                    105 mL
   Balance:
                                                                  2,615 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 735 (465 - 735) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.26/56/227/27/-2
   Ve: 12.9 L/min
   PaO2 / FiO2: 454
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   13.8 g/dL
   226 mg/dL
   1.3 mg/dL
   27 mEq/L
    3.5
   31 mg/dL
   103 mEq/L
   141 mEq/L
   41.3 %
   28.0 K/uL
        [image002.jpg]
                             [**2167-4-14**]  05:53 PM
                             [**2167-4-14**]  06:32 PM
                             [**2167-4-14**]  07:41 PM
                             [**2167-4-14**]  09:26 PM
                             [**2167-4-14**]  10:20 PM
                             [**2167-4-14**]  10:58 PM
                             [**2167-4-15**]  01:37 AM
                             [**2167-4-15**]  01:47 AM
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
   WBC
   12.8
   26.5
   28.0
   Hct
   38.6
   41.1
   41.3
   Plt
   [**Telephone/Fax (3) 6971**]
   Cr
   1.0
   1.3
   TropT
   0.02
   TCO2
   28
   28
   29
   28
   30
   29
   26
   Glucose
   160
   164
   239
   226
   Other labs: PT / PTT / INR:20.8/26.9/2.0, CK / CKMB /
   Troponin-T:/3/0.02, Lactic Acid:1.5 mmol/L, Ca++:8.4 mg/dL, Mg++:2.6
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 ACIDOSIS, MIXED
 VENTRICULAR TACHYCARDIA, SUSTAINED
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-15 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2X TTE with no pericardial effusion EF 40%
   - Drain only with 100mL since being emptied in lab
   - Attempted to extubate but patient was hypercarbic on pressure support
   ([**10-5**]) so had to go back on AC.
   - At around 10pm had a few episodes of NSVT. Then at around 2am had
   Sustained VT with hypotension and a code was called. 3X shock, chest
   compressions, epi, lido, vasopressin, amio bolus and then drip.
   Patient's pulse came back. follow up tte without effusion but EF
   decreased from 40-30%
   - continued amio drip overnight.
   -ABG in am with acidosis so increased rate to 24. Settings 24X515X50%
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Amiodarone - 1 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-15**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 78 (55 - 151) bpm
   BP: 118/52(72) {55/34(40) - 323/124(154)} mmHg
   RR: 24 (10 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,549 mL
                                                                  1,045 mL
   PO:
             TF:
   IVF:
                                                                  3,549 mL
                                                                  1,045 mL
   Blood products:
   Total out:
                                                                    934 mL
                                                                    585 mL
   Urine:
                                                                    620 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
                                                                    114 mL
                                                                    105 mL
   Balance:
                                                                  2,615 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 735 (465 - 735) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.26/56/227/27/-2
   Ve: 12.9 L/min
   PaO2 / FiO2: 454
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   252 K/uL
   13.8 g/dL
   226 mg/dL
   1.3 mg/dL
   27 mEq/L
    3.5
   31 mg/dL
   103 mEq/L
   141 mEq/L
   41.3 %
   28.0 K/uL
        [image002.jpg]
                             [**2167-4-14**]  05:53 PM
                             [**2167-4-14**]  06:32 PM
                             [**2167-4-14**]  07:41 PM
                             [**2167-4-14**]  09:26 PM
                             [**2167-4-14**]  10:20 PM
                             [**2167-4-14**]  10:58 PM
                             [**2167-4-15**]  01:37 AM
                             [**2167-4-15**]  01:47 AM
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
   WBC
   12.8
   26.5
   28.0
   Hct
   38.6
   41.1
   41.3
   Plt
   [**Telephone/Fax (3) 6971**]
   Cr
   1.0
   1.3
   TropT
   0.02
   TCO2
   28
   28
   29
   28
   30
   29
   26
   Glucose
   160
   164
   239
   226
   Other labs: PT / PTT / INR:20.8/26.9/2.0, CK / CKMB /
   Troponin-T:/3/0.02, Lactic Acid:1.5 mmol/L, Ca++:8.4 mg/dL, Mg++:2.6
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   /P: 74yo M with with multiple admissions for difficult to control AF
   with RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #. Effusion: Likely from complication of procedure
   - Will have repeat TTE to evaluate progression of effusion.
   - Will check pulsus
   - Will give FFP if effusion has progressed to reverse coumadin
   - Will hold coumadin for now
   - Will check O2 sat off drain to see if arterial or venous blood in
   effusion
   - Will attempt to wean dopa as able
   .
   #. Hypotension: In this patient etiologies include tamponade, CHD with
   poor CO, AF with poor CO, hypovolemia from bleeding post-procedure.
   - Will attempt to wean dopa as able
   - Will have repeat TTE as above to assess progression of effusion
   - Will check pulsus regularly
   - Will check hct and give blood as needed
   - Will have FFP if effusion progresses to reverse coumadin/bleeding
   tendency
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - will continue dofetilide
   - will start digoxin
   - will start amio if still not rate controlled
   - Will monitor HRs on dopa
   - Will attempt to wean dopa as able
   .
   #. Respiratory compromise: Has poor lung function at baseline with
   severe COPD. Intubated for procedure but may be difficult extubation
   currently as must lie flat post-procedure.
   - Will pull sheaths from procedure and then sit up prior to attempting
   extubation
   - Will wean sedation prior to extubation
   - Will f/u CXR and treat for pulm edema if necessary prior to
   extubation.
   - Will try to extubate tonight
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. FEN: No IVF currently, NPO, replete lytes PRN,
   #. ACCESS: Right sheath, 2XPIVs
   #. PPX: Holding anticoagulation in setting of bleed - INR 2 with
   coumadin so systemically anticoagulated. PPI while intubated, Bowel reg
   #. CODE: Full
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   #. Dispo: In CCU while intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-15 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2X TTE with no pericardial effusion EF 40%
   - Drain only with 100mL since being emptied in lab
   - Attempted to extubate but patient was hypercarbic on pressure support
   ([**10-5**]) so had to go back on AC.
   - At around 10pm had a few episodes of NSVT. Then at around 2am had
   Sustained VT with hypotension and a code was called. 3X shock, chest
   compressions, epi, lido, vasopressin, amio bolus and then drip.
   Patient's pulse came back. follow up tte without effusion but EF
   decreased from 40-30%
   - continued amio drip overnight.
   -ABG in am with acidosis so increased rate to 24. Settings 24X515X50%
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/[**Month/Day (1) 83**]
   Amiodarone - 1 mg/[**Month/Day (1) 83**]
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-15**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 78 (55 - 151) bpm
   BP: 118/52(72) {55/34(40) - 323/124(154)} mmHg
   RR: 24 (10 - 37) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,549 mL
                                                                  1,045 mL
   PO:
             TF:
   IVF:
                                                                  3,549 mL
                                                                  1,045 mL
   Blood products:
   Total out:
                                                                    934 mL
                                                                    585 mL
   Urine:
                                                                    620 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
                                                                    114 mL
                                                                    105 mL
   Balance:
                                                                  2,615 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 735 (465 - 735) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.26/56/227/27/-2
   Ve: 12.9 L/[**Year (4 digits) 83**]
   PaO2 / FiO2: 454
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   252 K/uL
   13.8 g/dL
   226 mg/dL
   1.3 mg/dL
   27 mEq/L
    3.5
   31 mg/dL
   103 mEq/L
   141 mEq/L
   41.3 %
   28.0 K/uL
        [image002.jpg]
                             [**2167-4-14**]  05:53 PM
                             [**2167-4-14**]  06:32 PM
                             [**2167-4-14**]  07:41 PM
                             [**2167-4-14**]  09:26 PM
                             [**2167-4-14**]  10:20 PM
                             [**2167-4-14**]  10:58 PM
                             [**2167-4-15**]  01:37 AM
                             [**2167-4-15**]  01:47 AM
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
   WBC
   12.8
   26.5
   28.0
   Hct
   38.6
   41.1
   41.3
   Plt
   [**Telephone/Fax (3) 6971**]
   Cr
   1.0
   1.3
   TropT
   0.02
   TCO2
   28
   28
   29
   28
   30
   29
   26
   Glucose
   160
   164
   239
   226
   Other labs: PT / PTT / INR:20.8/26.9/2.0, CK / CKMB /
   Troponin-T:/3/0.02, Lactic Acid:1.5 mmol/L, Ca++:8.4 mg/dL, Mg++:2.6
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  Pulsless Sustained V Tach:  Code Blue overnight at 1am,
   cardioverted, pt regained spontaneous circulation.
   - Continue amiodarone
   - Monitor on telemetry closely
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed yesterday.  F/U Echo showed only trivial effusion
   following.
   - continue to hold coumadin for now
   - O2 sat off drain was 96%, likely origin is LA
   - attempt to wean norepinephrine as able
   - Monitor drain output, only 100cc post code
   - TTE today to monitor development, if stable, will pull drain
   .
   #. Hypotension: Likely secondary to tamponade.  However other
   etiologies considered were CHD with poor CO, AF with poor CO,
   hypovolemia from bleeding post-procedure.  BPs have been labile on
   propofol, unable to wean norepinephrine
   - continue norepinephrine, will attempt to wean as able
   - monitor drain output
   - Will check hct and give blood as needed
   - Will have FFP if effusion progresses to reverse coumadin/bleeding
   tendency
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, decrease to 0.5mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to PO
   eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but may be difficult
   extubation currently as must lie flat post-procedure.
   - Will have upright prior to attempting extubation
   - Will wean sedation prior to extubation
   - Will f/u CXR and treat for pulm edema if necessary prior to
   extubation.
   - Will try to extubate today
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition: No IVF currently, NPO, replete lytes PRN,
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT: Holding anticoagulation in setting of bleed - INR 2 with coumadin
   so systemically anticoagulated.
   Stress ulcer:  PPI while intubated
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU

2167-04-16 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2167-4-15**]
   - rvr, increased amnio to 1, added dilt po
   - HC+stool, HCT 41-->38
   - cre rose to 2.4 then 3.0; oligouric during the day
   - Fena 0.1, 1500 cc bolus
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-15**] 08:25 PM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Diltiazem - [**2167-4-15**] 05:55 PM
   Morphine Sulfate - [**2167-4-16**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-16**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 126) bpm
   BP: 109/49(65) {60/34(41) - 165/67(94)} mmHg
   RR: 24 (19 - 36) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,555 mL
                                                                    441 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,932 mL
                                                                    341 mL
   Blood products:
                                                                    503 mL
   Total out:
                                                                  1,001 mL
                                                                     70 mL
   Urine:
                                                                    880 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
   Balance:
                                                                  3,554 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/40/85.[**Numeric Identifier 126**]/22/0
   Ve: 12 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   11.2 g/dL
   163 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
                             [**2167-4-15**]  08:09 AM
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
   WBC
   28.0
   15.8
   Hct
   41.3
   38.1
   33.7
   35.2
   Plt
   252
   182
   Cr
   1.6
   2.4
   3.0
   TCO2
   26
   26
   26
   27
   27
   Glucose
   230
   226
   174
   163
   Other labs: PT / PTT / INR:19.5/28.7/1.8, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 ACIDOSIS, MIXED
 VENTRICULAR TACHYCARDIA, SUSTAINED
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-16 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2167-4-15**]
   - rvr, increased amnio to 1, added dilt po
   - HC+stool, HCT 41-->38
   - cre rose to 2.4 then 3.0; oligouric during the day
   - Fena 0.1, 1500 cc bolus
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-15**] 08:25 PM
   Infusions:
   Amiodarone - 1 mg/[**Year (4 digits) 83**]
   Other ICU medications:
   Diltiazem - [**2167-4-15**] 05:55 PM
   Morphine Sulfate - [**2167-4-16**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-16**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 126) bpm
   BP: 109/49(65) {60/34(41) - 165/67(94)} mmHg
   RR: 24 (19 - 36) insp/[**Year (4 digits) 83**]
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,555 mL
                                                                    441 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,932 mL
                                                                    341 mL
   Blood products:
                                                                    503 mL
   Total out:
                                                                  1,001 mL
                                                                     70 mL
   Urine:
                                                                    880 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
   Balance:
                                                                  3,554 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/40/85.[**Numeric Identifier 126**]/22/0
   Ve: 12 L/[**Numeric Identifier 83**]
   PaO2 / FiO2: 213
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   11.2 g/dL
   163 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
                             [**2167-4-15**]  08:09 AM
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
   WBC
   28.0
   15.8
   Hct
   41.3
   38.1
   33.7
   35.2
   Plt
   252
   182
   Cr
   1.6
   2.4
   3.0
   TCO2
   26
   26
   26
   27
   27
   Glucose
   230
   226
   174
   163
   Other labs: PT / PTT / INR:19.5/28.7/1.8, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  Pulsless Sustained V Tach:  Code Blue overnight at 1am,
   cardioverted, pt regained spontaneous circulation.
   - Continue amiodarone
   - Monitor on telemetry closely
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed yesterday.  F/U Echo showed only trivial effusion
   following.
   - continue to hold coumadin for now
   - O2 sat off drain was 96%, likely origin is LA
   - attempt to wean norepinephrine as able
   - Monitor drain output, only 100cc post code
   - TTE today to monitor development, if stable, will pull drain
   .
   #. Hypotension: Likely secondary to tamponade.  However other
   etiologies considered were CHD with poor CO, AF with poor CO,
   hypovolemia from bleeding post-procedure.  BPs have been labile on
   propofol, unable to wean norepinephrine
   - continue norepinephrine, will attempt to wean as able
   - monitor drain output
   - Will check hct and give blood as needed
   - Will have FFP if effusion progresses to reverse coumadin/bleeding
   tendency
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, decrease to 0.5mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to PO
   eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but may be difficult
   extubation currently as must lie flat post-procedure.
   - Will have upright prior to attempting extubation
   - Will wean sedation prior to extubation
   - Will f/u CXR and treat for pulm edema if necessary prior to
   extubation.
   - Will try to extubate today
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-16 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2167-4-15**]
   - rvr, increased amnio to 1, added dilt po
   - HC+stool, HCT 41-->38
   - cre rose to 2.4 then 3.0; oligouric during the day
   - Fena 0.1, 1500 cc bolus
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-15**] 08:25 PM
   Infusions:
   Amiodarone - 1 mg/[**Year (4 digits) 83**]
   Other ICU medications:
   Diltiazem - [**2167-4-15**] 05:55 PM
   Morphine Sulfate - [**2167-4-16**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-16**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 126) bpm
   BP: 109/49(65) {60/34(41) - 165/67(94)} mmHg
   RR: 24 (19 - 36) insp/[**Year (4 digits) 83**]
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,555 mL
                                                                    441 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,932 mL
                                                                    341 mL
   Blood products:
                                                                    503 mL
   Total out:
                                                                  1,001 mL
                                                                     70 mL
   Urine:
                                                                    880 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
   Balance:
                                                                  3,554 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/40/85.[**Numeric Identifier 126**]/22/0
   Ve: 12 L/[**Numeric Identifier 83**]
   PaO2 / FiO2: 213
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   182 K/uL
   11.2 g/dL
   163 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
                             [**2167-4-15**]  08:09 AM
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
   WBC
   28.0
   15.8
   Hct
   41.3
   38.1
   33.7
   35.2
   Plt
   252
   182
   Cr
   1.6
   2.4
   3.0
   TCO2
   26
   26
   26
   27
   27
   Glucose
   230
   226
   174
   163
   Other labs: PT / PTT / INR:19.5/28.7/1.8, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  Pulsless Sustained V Tach:  Code Blue yesterday night cardioverted,
   pt regained spontaneous circulation.  No subsequent acute events
   - Continue amiodarone
   - Monitor on telemetry closely
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed and pulled. O2 sat off drain was 96%, likely origin was
   LA.  F/U Echo showed only trivial effusion following.
   - continue to hold coumadin for now
   - attempt to wean norepinephrine as able
   - consider TTE today to monitor development
   .
   #. Hypotension: Initially likely secondary to tamponade, but now more
   likely secondary to a fib with RVR and decreased EF compared to
   previous echo, unclear etiology may be ischemic, consider cardiac cath
   when stable.  Pt also had a Hct drop yesterday from 41 to 36 with
   guaiac positive stools thus could be hypovolemic.
   - continue norepinephrine, will attempt to wean as able
   - Will check hct and give blood as needed, goal Hct > 30
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, had to increase to 1mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to
   PO eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but tolerated
   extubation fine.
   - Monitor closely.
   .
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension during code.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   - If does not improve, will consult renal
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU

2167-04-16 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2167-4-15**]
   - rvr, increased amnio to 1, added dilt po
   - HC+stool, HCT 41-->38
   - cre rose to 2.4 then 3.0; oligouric during the day
   - Fena 0.1, 1500 cc bolus
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-15**] 08:25 PM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Diltiazem - [**2167-4-15**] 05:55 PM
   Morphine Sulfate - [**2167-4-16**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-16**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 126) bpm
   BP: 109/49(65) {60/34(41) - 165/67(94)} mmHg
   RR: 24 (19 - 36) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,555 mL
                                                                    441 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,932 mL
                                                                    341 mL
   Blood products:
                                                                    503 mL
   Total out:
                                                                  1,001 mL
                                                                     70 mL
   Urine:
                                                                    880 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
   Balance:
                                                                  3,554 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/40/85.[**Numeric Identifier 126**]/22/0
   Ve: 12 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   11.2 g/dL
   163 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
                             [**2167-4-15**]  08:09 AM
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
   WBC
   28.0
   15.8
   Hct
   41.3
   38.1
   33.7
   35.2
   Plt
   252
   182
   Cr
   1.6
   2.4
   3.0
   TCO2
   26
   26
   26
   27
   27
   Glucose
   230
   226
   174
   163
   Other labs: PT / PTT / INR:19.5/28.7/1.8, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-16 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2167-4-15**]
   - rvr, increased amnio to 1, added dilt po
   - HC+stool, HCT 41-->38
   - cre rose to 2.4 then 3.0; oligouric during the day
   - Fena 0.1, 1500 cc bolus
   Pt had generalized pain and anxiety overnight requiring morphine,
   toradol, ambien and zyprexa.  Still in pain this AM but less anxious.
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-15**] 08:25 PM
   Infusions:
   Amiodarone - 1 mg/[**Year (4 digits) 83**]
   Other ICU medications:
   Diltiazem - [**2167-4-15**] 05:55 PM
   Morphine Sulfate - [**2167-4-16**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-16**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 126) bpm
   BP: 109/49(65) {60/34(41) - 165/67(94)} mmHg
   RR: 24 (19 - 36) insp/[**Year (4 digits) 83**]
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,555 mL
                                                                    441 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,932 mL
                                                                    341 mL
   Blood products:
                                                                    503 mL
   Total out:
                                                                  1,001 mL
                                                                     70 mL
   Urine:
                                                                    880 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
   Balance:
                                                                  3,554 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/40/85.[**Numeric Identifier 126**]/22/0
   Ve: 12 L/[**Numeric Identifier 83**]
   PaO2 / FiO2: 213
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   182 K/uL
   11.2 g/dL
   163 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
                             [**2167-4-15**]  08:09 AM
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
   WBC
   28.0
   15.8
   Hct
   41.3
   38.1
   33.7
   35.2
   Plt
   252
   182
   Cr
   1.6
   2.4
   3.0
   TCO2
   26
   26
   26
   27
   27
   Glucose
   230
   226
   174
   163
   Other labs: PT / PTT / INR:19.5/28.7/1.8, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  s/p  Code Blue for pulseless atrial fibrillation vs VT yesterday
   night: No subsequent acute events
   - Continue amiodarone
   - Monitor on telemetry closely
   -Has pain likely from chest compressions
 will continue PRN pain
   meds->avoid nsaids given ARF and GIBs
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed and pulled. O2 sat off drain was 96%, likely origin was
   LA.  F/U Echo showed only trivial effusion following.
   - continue to hold coumadin for now
   - attempt to wean norepinephrine as able
   - consider TTE today to monitor development of effusion
   - Continue ctx for one more day
   .
   #. Hypotension: Cardiogenic: Initially likely secondary to tamponade,
   but now more likely secondary to a fib with RVR and decreased EF
   unclear etiology may be ischemic, consider cardiac cath when stable.
   Pt also had a Hct drop yesterday from 41 to 36 with guaiac positive
   stools thus could be hypovolemic however hcts since have been stable.
   - wean norepinephrine and start dopa instead for less tachycardia
   - Will check hct and give blood as needed, goal Hct > 30
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, had to increase to 1mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to
   PO eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   - restart coumadin
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but tolerated
   extubation fine.
   - Monitor closely.
   .
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension during code and
   currently on pressors.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   - If does not improve, will consult renal
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:  ISS
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM->remove today
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:  pneumoboots, heparin gtt today as inr subtherapeutic
   Stress ulcer: PPI IV
   Communication:  with patient and family including sons, [**Name (NI) **] and [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 36**] status:  FULL
   Disposition:  CCU
   ------ Protected Section ------
   Reviewed course overnight.AF with RVR remains an issue.
   I examined Pt and agree with treatment plan.
   Spent 35mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2167-4-16**] 13:17 ------

2167-04-16 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2167-4-15**]
   - rvr, increased amnio to 1, added dilt po
   - HC+stool, HCT 41-->38
   - cre rose to 2.4 then 3.0; oligouric during the day
   - Fena 0.1, 1500 cc bolus
   Pt had generalized pain and anxiety overnight requiring morphine,
   toradol, ambien and zyprexa.  Still in pain this AM but less anxious.
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-15**] 08:25 PM
   Infusions:
   Amiodarone - 1 mg/[**Year (4 digits) 83**]
   Other ICU medications:
   Diltiazem - [**2167-4-15**] 05:55 PM
   Morphine Sulfate - [**2167-4-16**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-16**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 126) bpm
   BP: 109/49(65) {60/34(41) - 165/67(94)} mmHg
   RR: 24 (19 - 36) insp/[**Year (4 digits) 83**]
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,555 mL
                                                                    441 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,932 mL
                                                                    341 mL
   Blood products:
                                                                    503 mL
   Total out:
                                                                  1,001 mL
                                                                     70 mL
   Urine:
                                                                    880 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
   Balance:
                                                                  3,554 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/40/85.[**Numeric Identifier 126**]/22/0
   Ve: 12 L/[**Numeric Identifier 83**]
   PaO2 / FiO2: 213
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   182 K/uL
   11.2 g/dL
   163 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
                             [**2167-4-15**]  08:09 AM
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
   WBC
   28.0
   15.8
   Hct
   41.3
   38.1
   33.7
   35.2
   Plt
   252
   182
   Cr
   1.6
   2.4
   3.0
   TCO2
   26
   26
   26
   27
   27
   Glucose
   230
   226
   174
   163
   Other labs: PT / PTT / INR:19.5/28.7/1.8, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  Pulsless Sustained V Tach:  Code Blue yesterday night cardioverted,
   pt regained spontaneous circulation.  No subsequent acute events
   - Continue amiodarone
   - Monitor on telemetry closely
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed and pulled. O2 sat off drain was 96%, likely origin was
   LA.  F/U Echo showed only trivial effusion following.
   - continue to hold coumadin for now
   - attempt to wean norepinephrine as able
   - consider TTE today to monitor development
   .
   #. Hypotension: Initially likely secondary to tamponade, but now more
   likely secondary to a fib with RVR and decreased EF compared to
   previous echo, unclear etiology may be ischemic, consider cardiac cath
   when stable.  Pt also had a Hct drop yesterday from 41 to 36 with
   guaiac positive stools thus could be hypovolemic.
   - continue norepinephrine, will attempt to wean as able
   - Will check hct and give blood as needed, goal Hct > 30
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, had to increase to 1mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to
   PO eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but tolerated
   extubation fine.
   - Monitor closely.
   .
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension during code.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   - If does not improve, will consult renal
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU

2167-04-16 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2167-4-15**]
   - rvr, increased amnio to 1, added dilt po
   - HC+stool, HCT 41-->38
   - cre rose to 2.4 then 3.0; oligouric during the day
   - Fena 0.1, 1500 cc bolus
   Pt had generalized pain and anxiety overnight requiring morphine,
   toradol, ambien and zyprexa.  Still in pain this AM but less anxious.
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-15**] 08:25 PM
   Infusions:
   Amiodarone - 1 mg/[**Year (4 digits) 83**]
   Other ICU medications:
   Diltiazem - [**2167-4-15**] 05:55 PM
   Morphine Sulfate - [**2167-4-16**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-16**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 126) bpm
   BP: 109/49(65) {60/34(41) - 165/67(94)} mmHg
   RR: 24 (19 - 36) insp/[**Year (4 digits) 83**]
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,555 mL
                                                                    441 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,932 mL
                                                                    341 mL
   Blood products:
                                                                    503 mL
   Total out:
                                                                  1,001 mL
                                                                     70 mL
   Urine:
                                                                    880 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
   Balance:
                                                                  3,554 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/40/85.[**Numeric Identifier 126**]/22/0
   Ve: 12 L/[**Numeric Identifier 83**]
   PaO2 / FiO2: 213
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   182 K/uL
   11.2 g/dL
   163 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
                             [**2167-4-15**]  08:09 AM
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
   WBC
   28.0
   15.8
   Hct
   41.3
   38.1
   33.7
   35.2
   Plt
   252
   182
   Cr
   1.6
   2.4
   3.0
   TCO2
   26
   26
   26
   27
   27
   Glucose
   230
   226
   174
   163
   Other labs: PT / PTT / INR:19.5/28.7/1.8, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  s/p  Code Blue for pulseless atrial fibrillation vs VT yesterday
   night: No subsequent acute events
   - Continue amiodarone
   - Monitor on telemetry closely
   -Has pain likely from chest compressions
 will continue PRN pain
   meds->avoid nsaids given ARF and GIBs
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed and pulled. O2 sat off drain was 96%, likely origin was
   LA.  F/U Echo showed only trivial effusion following.
   - continue to hold coumadin for now
   - attempt to wean norepinephrine as able
   - consider TTE today to monitor development of effusion
   - Continue ctx for one more day
   .
   #. Hypotension: Cardiogenic: Initially likely secondary to tamponade,
   but now more likely secondary to a fib with RVR and decreased EF
   unclear etiology may be ischemic, consider cardiac cath when stable.
   Pt also had a Hct drop yesterday from 41 to 36 with guaiac positive
   stools thus could be hypovolemic however hcts since have been stable.
   - wean norepinephrine and start dopa instead for less tachycardia
   - Will check hct and give blood as needed, goal Hct > 30
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, had to increase to 1mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to
   PO eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   - restart coumadin
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but tolerated
   extubation fine.
   - Monitor closely.
   .
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension during code and
   currently on pressors.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   - If does not improve, will consult renal
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:  ISS
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM->remove today
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:  pneumoboots, heparin gtt today as inr subtherapeutic
   Stress ulcer: PPI IV
   Communication:  with patient and family including sons, [**Name (NI) **] and [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 36**] status:  FULL
   Disposition:  CCU

2167-04-17 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - STOP [**2167-4-16**] 11:42 AM
   [**2167-4-16**]:
   - Venous sheath pulled
   - Restarted heparin drip and coumadin following
   - Pt on 3mcg of dopamine, able to be discontinued in the afternoon
   - HR up to the 130's at times, getting PO dilt, attempting IV dilt,
   dilt drip
   - Dr. [**Last Name (STitle) 161**] requested one time additional dose of IV Dig 0.125 as level
   low, check repeat level in AM
   - UA, urine Eos
   - Having green liquid stools - sent for C diff
   - Pt became acutely agitated at 3:30pm, attempted neb for SOB, morphine
   for pain
   - Consulted Renal - likely ATN requesting urine protein crn ratio and
   renal US
   - Decreased UOP overnight
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-16**] 11:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Amiodarone - 1 mg/min
   Heparin Sodium - 1,999 units/hour
   Other ICU medications:
   Diltiazem - [**2167-4-16**] 02:35 PM
   Morphine Sulfate - [**2167-4-17**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-17**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 71 (56 - 124) bpm
   BP: 119/46(64) {80/39(45) - 137/59(74)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,725 mL
                                                                    307 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                  1,385 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    140 mL
   Urine:
                                                                    509 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/38/69/22/-3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   175 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   69 mg/dL
   104 mEq/L
   138 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
                             [**2167-4-16**]  03:26 PM
                             [**2167-4-16**]  03:35 PM
                             [**2167-4-17**]  03:50 AM
   WBC
   15.8
   10.7
   Hct
   38.1
   33.7
   35.2
   34.3
   29.6
   Plt
   182
   166
   Cr
   2.4
   3.0
   3.4
   3.8
   TCO2
   26
   27
   27
   22
   Glucose
   174
   163
   177
   175
   Other labs: PT / PTT / INR:17.3/94.2/1.6, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 DIARRHEA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 ACIDOSIS, MIXED
 VENTRICULAR TACHYCARDIA, SUSTAINED
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-16**] 08:15 AM
   22 Gauge - [**2167-4-16**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-17 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - STOP [**2167-4-16**] 11:42 AM
   [**2167-4-16**]:
   - Venous sheath pulled
   - Restarted heparin drip and coumadin following
   - Pt on 3mcg of dopamine, able to be discontinued in the afternoon
   - HR up to the 130's at times, getting PO dilt, attempting IV dilt,
   dilt drip
   - Dr. [**Last Name (STitle) 161**] requested one time additional dose of IV Dig 0.125 as level
   low, check repeat level in AM
   - UA, urine Eos
   - Having green liquid stools - sent for C diff
   - Pt became acutely agitated at 3:30pm, attempted neb for SOB, morphine
   for pain
   - Consulted Renal - likely ATN requesting urine protein crn ratio and
   renal US
   - Decreased UOP overnight
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-16**] 11:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Amiodarone - 1 mg/[**Year (4 digits) 83**]
   Heparin Sodium - 1,999 units/hour
   Other ICU medications:
   Diltiazem - [**2167-4-16**] 02:35 PM
   Morphine Sulfate - [**2167-4-17**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-17**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 71 (56 - 124) bpm
   BP: 119/46(64) {80/39(45) - 137/59(74)} mmHg
   RR: 22 (20 - 32) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,725 mL
                                                                    307 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                  1,385 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    140 mL
   Urine:
                                                                    509 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/38/69/22/-3
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   175 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   69 mg/dL
   104 mEq/L
   138 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
                             [**2167-4-16**]  03:26 PM
                             [**2167-4-16**]  03:35 PM
                             [**2167-4-17**]  03:50 AM
   WBC
   15.8
   10.7
   Hct
   38.1
   33.7
   35.2
   34.3
   29.6
   Plt
   182
   166
   Cr
   2.4
   3.0
   3.4
   3.8
   TCO2
   26
   27
   27
   22
   Glucose
   174
   163
   177
   175
   Other labs: PT / PTT / INR:17.3/94.2/1.6, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  s/p  Code Blue for pulseless atrial fibrillation vs VT yesterday
   night: No subsequent acute events
   - Continue amiodarone
   - Monitor on telemetry closely
   -Has pain likely from chest compressions
 will continue PRN pain
   meds->avoid nsaids given ARF and GIBs
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed and pulled. O2 sat off drain was 96%, likely origin was
   LA.  F/U Echo showed only trivial effusion following.
   - continue to hold coumadin for now
   - attempt to wean norepinephrine as able
   - consider TTE today to monitor development of effusion
   - Continue ctx for one more day
   .
   #. Hypotension: Cardiogenic: Initially likely secondary to tamponade,
   but now more likely secondary to a fib with RVR and decreased EF
   unclear etiology may be ischemic, consider cardiac cath when stable.
   Pt also had a Hct drop yesterday from 41 to 36 with guaiac positive
   stools thus could be hypovolemic however hcts since have been stable.
   - wean norepinephrine and start dopa instead for less tachycardia
   - Will check hct and give blood as needed, goal Hct > 30
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, had to increase to 1mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to
   PO eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   - restart coumadin
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but tolerated
   extubation fine.
   - Monitor closely.
   .
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension during code and
   currently on pressors.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   - If does not improve, will consult renal
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   )
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-16**] 08:15 AM
   22 Gauge - [**2167-4-16**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-17 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - STOP [**2167-4-16**] 11:42 AM
   [**2167-4-16**]:
   - Venous sheath pulled
   - Restarted heparin drip and coumadin following
   - Pt on 3mcg of dopamine, able to be discontinued in the afternoon
   - HR up to the 130's at times, getting PO dilt, attempting IV dilt,
   dilt drip
   - Dr. [**Last Name (STitle) 161**] requested one time additional dose of IV Dig 0.125 as level
   low, check repeat level in AM
   - UA, urine Eos
   - Having green liquid stools - sent for C diff
   - Pt became acutely agitated at 3:30pm, attempted neb for SOB, morphine
   for pain
   - Consulted Renal - likely ATN requesting urine protein crn ratio and
   renal US
   - Decreased UOP overnight
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-16**] 11:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Amiodarone - 1 mg/min
   Heparin Sodium - 1,999 units/hour
   Other ICU medications:
   Diltiazem - [**2167-4-16**] 02:35 PM
   Morphine Sulfate - [**2167-4-17**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-17**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 71 (56 - 124) bpm
   BP: 119/46(64) {80/39(45) - 137/59(74)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,725 mL
                                                                    307 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                  1,385 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    140 mL
   Urine:
                                                                    509 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/38/69/22/-3
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   175 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   69 mg/dL
   104 mEq/L
   138 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
                             [**2167-4-16**]  03:26 PM
                             [**2167-4-16**]  03:35 PM
                             [**2167-4-17**]  03:50 AM
   WBC
   15.8
   10.7
   Hct
   38.1
   33.7
   35.2
   34.3
   29.6
   Plt
   182
   166
   Cr
   2.4
   3.0
   3.4
   3.8
   TCO2
   26
   27
   27
   22
   Glucose
   174
   163
   177
   175
   Other labs: PT / PTT / INR:17.3/94.2/1.6, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   # Pericardial Effusion:  Resolved; drain removed
   - Consider dc CTX.
   # AF with RVR: Patient with long history of difficult to control AF.
   Increased digoxin, added dilt ggt for rate control. Continuing
   amiodarone drip. Transition to po.
   - monitor HRs
   - will hold dig given elevated cre
   - Will likely need a pacemaker eventually with AV node ablation
   - restart coumadin
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension. Renal consulted.
   Cre worsening.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   # COPD: Will continue home inhalers once extubated.
   # DM2: Will have ISS while hospitalized.
   # HTN: Currently hypotensive so will hold home BP meds.
   # Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-16**] 08:15 AM
   22 Gauge - [**2167-4-16**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-04-17 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - STOP [**2167-4-16**] 11:42 AM
   [**2167-4-16**]:
   - Venous sheath pulled
   - Restarted heparin drip and coumadin following
   - Pt on 3mcg of dopamine, able to be discontinued in the afternoon
   - HR up to the 130's at times, getting PO dilt, attempting IV dilt,
   dilt drip
   - Dr. [**Last Name (STitle) 161**] requested one time additional dose of IV Dig 0.125 as level
   low, check repeat level in AM
   - UA, urine Eos
   - Having green liquid stools - sent for C diff
   - Pt became acutely agitated at 3:30pm, attempted neb for SOB, morphine
   for pain
   - Consulted Renal - likely ATN requesting urine protein crn ratio and
   renal US
   - Decreased UOP overnight
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-16**] 11:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Amiodarone - 1 mg/min
   Heparin Sodium - 1,999 units/hour
   Other ICU medications:
   Diltiazem - [**2167-4-16**] 02:35 PM
   Morphine Sulfate - [**2167-4-17**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-17**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 71 (56 - 124) bpm
   BP: 119/46(64) {80/39(45) - 137/59(74)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,725 mL
                                                                    307 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                  1,385 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    140 mL
   Urine:
                                                                    509 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/38/69/22/-3
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   175 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   69 mg/dL
   104 mEq/L
   138 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
                             [**2167-4-16**]  03:26 PM
                             [**2167-4-16**]  03:35 PM
                             [**2167-4-17**]  03:50 AM
   WBC
   15.8
   10.7
   Hct
   38.1
   33.7
   35.2
   34.3
   29.6
   Plt
   182
   166
   Cr
   2.4
   3.0
   3.4
   3.8
   TCO2
   26
   27
   27
   22
   Glucose
   174
   163
   177
   175
   Other labs: PT / PTT / INR:17.3/94.2/1.6, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   # Pericardial Effusion:  Resolved; drain removed
   - Consider dc CTX.
   # AF with RVR: Patient with long history of difficult to control AF.
   Increased digoxin, added dilt ggt for rate control. Continuing
   amiodarone drip. Transition to po.
   - monitor HRs
   - will hold dig given elevated cre
   - Will likely need a pacemaker eventually with AV node ablation
   - restart coumadin
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension. Renal consulted.
   Cre worsening.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   # COPD: Will continue home inhalers once extubated.
   # DM2: Will have ISS while hospitalized.
   # HTN: Currently hypotensive so will hold home BP meds.
   # Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-16**] 08:15 AM
   22 Gauge - [**2167-4-16**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Agree with Dr.[**Last Name (STitle) **]
s note.reviewed course and examined Pt.
   Can be transferred to [**Hospital1 **] under Dr.[**Last Name (STitle) 161**] when stable.
   Spent 35mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2167-4-17**] 11:52 ------

2167-04-17 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - STOP [**2167-4-16**] 11:42 AM
   [**2167-4-16**]:
   - Venous sheath pulled
   - Restarted heparin drip and coumadin following
   - Pt on 3mcg of dopamine, able to be discontinued in the afternoon
   - HR up to the 130's at times, getting PO dilt, attempting IV dilt,
   dilt drip
   - Dr. [**Last Name (STitle) 161**] requested one time additional dose of IV Dig 0.125 as level
   low, check repeat level in AM
   - UA, urine Eos
   - Having green liquid stools - sent for C diff
   - Pt became acutely agitated at 3:30pm, attempted neb for SOB, morphine
   for pain
   - Consulted Renal - likely ATN requesting urine protein crn ratio and
   renal US
   - Decreased UOP overnight
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-16**] 11:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Amiodarone - 1 mg/min
   Heparin Sodium - 1,999 units/hour
   Other ICU medications:
   Diltiazem - [**2167-4-16**] 02:35 PM
   Morphine Sulfate - [**2167-4-17**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-17**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 71 (56 - 124) bpm
   BP: 119/46(64) {80/39(45) - 137/59(74)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,725 mL
                                                                    307 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                  1,385 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    140 mL
   Urine:
                                                                    509 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/38/69/22/-3
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   175 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   69 mg/dL
   104 mEq/L
   138 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
                             [**2167-4-16**]  03:26 PM
                             [**2167-4-16**]  03:35 PM
                             [**2167-4-17**]  03:50 AM
   WBC
   15.8
   10.7
   Hct
   38.1
   33.7
   35.2
   34.3
   29.6
   Plt
   182
   166
   Cr
   2.4
   3.0
   3.4
   3.8
   TCO2
   26
   27
   27
   22
   Glucose
   174
   163
   177
   175
   Other labs: PT / PTT / INR:17.3/94.2/1.6, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   # Pericardial Effusion:  Resolved; drain removed
   - Consider dc CTX.
   # AF with RVR: Patient with long history of difficult to control AF.
   Increased digoxin, added dilt ggt for rate control. Continuing
   amiodarone drip. Plant to establish a rate control regimen and then
   transition to po.
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - restart coumadin
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension. Renal consulted.
   Cre worsening.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   # COPD: Will continue home inhalers once extubated.
   # DM2: Will have ISS while hospitalized.
   # HTN: Currently hypotensive so will hold home BP meds.
   # Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-16**] 08:15 AM
   22 Gauge - [**2167-4-16**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: